US07576115B2
Synthesis of methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate
The known procedure disclosed in the literature (J. Heterocyclic Chem., 28, 17, (1991).) was followed using 5-methoxycarbonyl-2-thiophenecarboxylic acid synthesized in Reference Synthetic Example 38, thionyl chloride and hydrazine monohydrate to give 144 mg of the desired product as a white solid (yield 72%).

reactant | 5-methoxycarbonyl-2-thiophenecarboxylic acid | COC(=O)C1=CC=C(S1)C(=O)O | C7H6O4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrazine monohydrate | O.NN
product | methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate | 144 mg, yield 72% | N(N)C(=O)C1=CC=C(S1)C(=O)OC | C7H8N2O3S
